US05439928
4-[4,4-bis(4-aminophenyl)butyl]-1H-imidazole
4-[4,4-bis(4-nitrophenyl)butyl]-1H-imidazole is hydrogenated in ethanol using 10% palladium on carbon (Pd/C) as a catalyst.

reactant | 4-[4,4-bis(4-nitrophenyl)butyl]-1H-imidazole | [N+](=O)([O-])C1=CC=C(C=C1)C(CCCC=1N=CNC1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H18N4O4
catalyst | ethanol | C(C)O | C2H6O
product | 4-[4,4-bis(4-aminophenyl)butyl]-1H-imidazole | NC1=CC=C(C=C1)C(CCCC=1N=CNC1)C1=CC=C(C=C1)N | C19H22N4
